US07851484B2
2-Amino-5-chloro-3-fluoroisonicotinonitrile.
To a 200 mL round bottom flask was added 5-chloro-3-fluoro-4-iodopyridin-2-amine (9.7 g, 5.5 mmol, 1.0 equiv), zinc cyanide (4.6 g, 6.1 mmol), tetrakis(triphenylphosphine)palladium(0) (4.1 g, 0.56 mmol), and DMF (80 mL). The reaction mixture was heated to 175° C. for 40 minutes. The reaction was then poured into a mixture of EtOAc (300 mL) and brine (150 mL). The organic layer was separated, washed with brine (150 mL), dried over Na2SO4, and concentrated. The residue was dissolved in CH2Cl2 and purified by silica gel chromatography (5-30% EtOAc/hexanes) to yield 4.1 g of the title compound (69%) as an off-white solid.

reactant | 5-chloro-3-fluoro-4-iodopyridin-2-amine | 5.5 mmol, 9.7 g, 1.0 equiv | ClC=1C(=C(C(=NC1)N)F)I | C5H3ClFIN2
reactant | DMF | 80 mL | CN(C)C=O | C3H7NO
reactant | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | brine | 150 mL | [Cl-].[Na+].O
catalyst | zinc cyanide | 6.1 mmol, 4.6 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.56 mmol, 4.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Amino-5-chloro-3-fluoroisonicotinonitrile | 4.1 g, 69% | NC=1C(=C(C#N)C(=CN1)Cl)F | C6H3ClFN3
